US04245107
380 mg. of 3-thienylsulfinylacetic acid of the R form and 7-amino-3-(1H-1,2,3-triazol-5-ylthiomethyl)-3-cephem-4-carboxylic acid were reacted in the same manner as described in Example 28 and 369 mg. of 7-(3-thienylsulfinylacetamido)-3-(1H-1,2,3-triazol-5-ylthiomethyl)-3-cephem-4-carboxylic acid of the R form were obtained.

reactant | 3-thienylsulfinylacetic acid | S1C=C(C=C1)S(=O)CC(=O)O | C6H6O3S2
reactant | 7-amino-3-(1H-1,2,3-triazol-5-ylthiomethyl)-3-cephem-4-carboxylic acid | NC1[C@@H]2N(C(=C(CS2)CSC2=CN=NN2)C(=O)O)C1=O | C10H11N5O3S2
product | 7-(3-thienylsulfinylacetamido)-3-(1H-1,2,3-triazol-5-ylthiomethyl)-3-cephem-4-carboxylic acid | S1C=C(C=C1)S(=O)CC(=O)NC1[C@@H]2N(C(=C(CS2)CSC2=CN=NN2)C(=O)O)C1=O | C16H15N5O5S4
